US05079260
A mixture of 2,7-dimethylfluorenone (7.0 g, 32.8 mmol), methanol (100 mL), ethyl acetate (50 mL), acetic acid (20 mL) and palladium hydroxide (20% on carbon, water content 44.43%, 0.5g) was hydrogenated in a shaker at 26 psi of hydrogen for 4 hr. The reaction was monitored by TLC (silica, 10% ethyl acetate/hexane). The catalyst was filtered out and the solvents were removed in vacuum. Treatment of the residue with methanol afforded 5.7 g (89.3%) of 2,7-dimethylfluorene.

reactant | 2,7-dimethylfluorenone | 32.8 mmol, 7.0 g | CC=1C(C2=CC3=CC(=CC=C3C2=CC1)C)=O | C15H12O
reactant | methanol | 100 mL | CO | CH4O
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide | 0.5g | [OH-].[Pd+2].[OH-]
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 2,7-dimethylfluorene | 5.7 g, 89.3% | CC1=CC=2CC3=CC(=CC=C3C2C=C1)C | C15H14
